US07504404B2
5-{5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.28) (157 mg, 0.5 mmol) and N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine (example B.2) (166 mg, 0.75 mmol) according to general procedure II. Obtained after purification by flash chromatography (ethyl acetate/heptane) and crystallization (ethyl acetate/dichloromethane) as a light brown solid (130 mg, 52%). MS (EI) 498.1 [(M)+]; mp 294° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 157 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C(=O)O | C16H12ClN3O2
reactant | N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine | 0.75 mmol, 166 mg | ONC(=N)C=1SC(=CC1)S(N)(=O)=O | C5H7N3O3S2
product | 5-{5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C2=NC(=NO2)C2=CC=C(S2)S(=O)(=O)N | C21H15ClN6O3S2
